Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Compazine / Motrin / Celexa / Amitriptyline Hcl / Neurontin
 
Attending: ___.
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
-arthrocentesis/aspiration left knee ___
 
History of Present Illness:
Ms. ___ is a ___ female with the PMH osteoarthritis,  
s/p bilateral TKAs (___) c/b DVT in requiring LT knee 
revision ___ after running injury, POD ___ s/p L knee washout 
on vanc/ertapenem, who is admitted for ___ and
fevers.  Pts recent health issues began in ___ when she 
twisted her knee while running, was subsequently found to have 
loosening of her L total knee replacement, underwent revision 
however course was complicated by L knee hematoma with bleeding 
from incision, subsequently required revision and debridement 
___, discharged on ___ to complete a 6 week course of IV abx 
for polymicrobial joint infection (tissues growing grp B strep; 
enterococcus (vanc/amp susceptible); SCN; diptheoids; kleb 
pneumo ___ serratia (pan- ___ and mixed bacterial 
flora).   Pt was seen in ___ clinic today for where she was noted 
to be weak and ill-appearing, temp was 103.0, therefore she was 
sent to the ED.  

On talking with the patient today, she complaints of pain in the 
L knee but is unable to tell me a clear time frame for the 
worsening of the pain, states in general it has persisted since 
her last admission. Also endorses a shooting pain in her hip as 
well as numbness.  States that she has felt a little confused
recently and endorses difficulty breathing over the last week as 
well as non-productive cough.  She had diarrhea a couple days 
ago, none recently, vomiting x 1 on tues.  No new rashes.  She 
has been taking abx every day and has not had any new 
medications recently.  Endorses poor appetite recently, can't 
remember last meal.  Denies drainage from line or surgical 
incision.

ROS: Pertinent positives and negatives as noted in the HPI.  All 
other systems were reviewed and are negative. 
 
Past Medical History:
-Osteoarthritis s/p LT TKR ___ s/p RT TKR ___
-pulmonary embolism - ___ after left knee replacement, second 
after stopping coumadin, currently on eliquis
-abd wall cellulitis ___
-fibroids s/p supracervical hysterectomy, repair of bowel serosa
injury, cystoscopy (___)  
-fibromyalgia, depression, anxiety  
-left leg nerve entrapment 
-ectopic pregnancy  
-obesity, OSA, migraines, GERD, chronic lower back pain
 
Social History:
___
Family History:
-Father's health unknown except potential h/o stomach cancer.
-Uncle has unknown cancer.
-Mother living at ___ with arthritis, DM, and osteoporosis.
-Aunt recently passed at ___ ___nd heart disease.
-Grandmother with breast cancer.
-No siblings.
-Children healthy.
 
Physical Exam:
ADMISSION EXAM
VITALS: reviewed in OMR
GENERAL: Alert and in no apparent distress, morbidly obese
EYES: Anicteric, pupils equally round
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with diminished air movement
throughout.  Breathing is non-labored
GI: Abdomen soft, non-distended, mild diffuse ttp.  Bowel sounds
present.  No HSM
GU: No GU catheter in place
MSK: moves all extremities, diminished ROM in L knee.  Sutures 
in
place without drainage, swelling in LLE but not hot
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented x3, face symmetric, gaze conjugate with
EOMI, speech fluent, moves all limbs, sensation to light touch
grossly intact throughout
PSYCH: pleasant, slightly flat affect

DISCHARGE EXAM

 
Pertinent Results:
ADMISSION LABS
___ 11:21AM BLOOD WBC-2.3*# RBC-2.85* Hgb-7.6* Hct-23.6* 
MCV-83 MCH-26.7 MCHC-32.2 RDW-15.6* RDWSD-47.3* Plt ___
___ 11:21AM BLOOD Neuts-66.0 ___ Monos-11.2 
Eos-0.0* Baso-0.4 NRBC-0.9* Im ___ AbsNeut-1.54*# 
AbsLymp-0.50* AbsMono-0.26 AbsEos-0.00* AbsBaso-0.01

___ 12:19PM BLOOD ___ PTT-42.8* ___

___ 11:21AM BLOOD Glucose-129* UreaN-17 Creat-2.8*# Na-133 
K-3.3 Cl-94* HCO3-21* AnGap-18*
___ 11:21AM BLOOD ALT-35 AST-143* AlkPhos-81 TotBili-0.4
___ 11:21AM BLOOD Albumin-3.0* Calcium-7.9* Phos-2.3* 
Mg-1.5*
___ 04:46AM BLOOD Vanco-46.9*

DISCHARGE LABS
***

IMAGING/STUDIES 
-Renal US: No hydronephrosis.  The right kidney appears slightly 
more echogenic,
correlate clinically for medical renal disease.

___ 04:51AM BLOOD WBC-2.5* RBC-2.77* Hgb-7.5* Hct-23.0* 
MCV-83 MCH-27.1 MCHC-32.6 RDW-18.0* RDWSD-54.7* Plt ___
___ 04:51AM BLOOD Plt ___
___ 04:51AM BLOOD Glucose-97 UreaN-15 Creat-1.8* Na-147* 
K-3.5 Cl-109* HCO3-24 AnGap-14
___ 05:10AM BLOOD CK(CPK)-64
___ 05:26AM BLOOD ALT-20 AST-57* CK(CPK)-201 AlkPhos-65 
TotBili-0.4
___ 04:51AM BLOOD Calcium-7.7* Phos-3.4 Mg-1.6
___ 12:12PM BLOOD calTIBC-153* VitB12-434 Folate-16 
___ TRF-118*
___ 11:21AM BLOOD CRP-161.7*
 
Brief Hospital Course:
___ h/o osteoarthritis s/p bilateral TKAs ___ and ___ 
(complicated by DVT/PE) w/ left knee revision ___ 
(complicated by hematoma and polymicrobial joint infection on 
vanc/ertapenem  for 6 weeks s/p revision/debridement ___ who 
is admitted for ___ and fevers.

1. ___
-Urine electrolytes consistent with pre-renal etiology likely 
due to poor PO intake w/ fever; however, she received 3L IV 
fluids without improvement in creatinine.  In setting of 
supra-therapuetic vanco trough of 46 there was initial concern 
this is actually ATN.  Vancomycin was stopped and Switched to IV 
Dapto. Renal US without hydronephrosis. Seen by nephrology. Also 
agreed w/ switch. Did not feel ___ was related to AIN either. 
Lisinopril held and to be stopped at discharge as well. 
Neohrology also recommended DC of PPI which was done. Cre 
steadily improved, down to 1.8 at discharge

2. Fever and leukopenia h/o left knee polymicrobial joint 
infection
-Patient spiking fever while on vancomycin/ertapenem concerning 
for resistant organisms or inadequate coverage.  ID was 
consulted who replaced vancomycin with daptomycin given ___, 
replaced ertapenem with meropenem, and added levofloxacin 
pending arthrocentsis culture, which did not show any growth. 
Ultimately discharged on IV Ertapenem and Daptomycin which pt 
will finish until ___

3. Acute on chronic normocytic anemia
-Unclear etiology with no reports of bleeding.  ___ be related 
to knee surgery (?hematoma) vs anemia of chronic disease.  She 
notes multiple blood transfusions over the past few months and 
is worried this contributed to her current infections; because 
of this she declined further transfusions.  Anemia work up 
showed normal iron level but started on PO iron here.

4. h/o DVT/PE w/ supratherapeutic INR
-h/o clots during previous surgeries and when coming off 
Coumadin.  She was counted on prophylactic SC heparin until 
cleared by surgery and then transitioned back to home coumadin. 
Will be discharged on 4 mg as INR supratherapeutic at 3.5 today. 
She should hold warfarin tonight and then have INR checked daily 
until therapeautic 

5. Acute encephalopathy
-Likely multifactorial in setting of infection, fever, 
hospitalization, medications.  Zolpidem, cyclobenzaprine, 
oxycodone, and lorazepam are all potentially contributing to 
sedation/confusion and tried to minimize polypharmacy.
- Resolved, at baseline mentation at discharge 

6. Hypomagnesemia
-Repete and monitor.  Chlorthalidone stopped.

7. HTN
-Chlorthalidone stopped in setting of ___.

>30 minutes spent on discharge planning.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H wheezing 
2. amLODIPine 10 mg PO DAILY 
3. Apixaban 5 mg PO BID 
4. Atenolol 100 mg PO DAILY 
5. Chlorthalidone 50 mg PO DAILY 
6. Cyclobenzaprine 10 mg PO BID:PRN spasm 
7. Enoxaparin Sodium 80 mg SC BID 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
8. Ertapenem Sodium 1 g IV Frequency is Unknown 
9. Leuprolide Acetate 11.25 mg IM Q3MONTHS 
10. Lisinopril 40 mg PO DAILY 
11. LORazepam 1 mg PO QHS anxiety 
12. QUEtiapine Fumarate 400 mg PO QHS 
13. Tizanidine 8 mg PO QHS 
14. Vancomycin 1500 mg IV Q 12H 
15. Zolpidem Tartrate 5 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  Daptomycin 530 mg IV Q24H 
RX *daptomycin [Cubicin] 500 mg 530 mg IV once a day Disp #*19 
Vial Refills:*0 
2.  Ertapenem Sodium 1 g IV 1X Duration: 1 Dose 
1 gram daily until ___ 
RX *ertapenem [Invanz] 1 gram 1 gram IV daily Disp #*19 Vial 
Refills:*0 
3.  Ferrous Sulfate 325 mg PO BID 
RX *ferrous sulfate [Feosol] 325 mg (65 mg iron) 1 tablet(s) by 
mouth twice daily Disp #*60 Tablet Refills:*0 
4.  Vitamin D 400 UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 400 unit 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
5.  Warfarin 4 mg PO DAILY16 
Hold warfarin today (___). Will need to check INR daily to 
adjust dosing further 
RX *warfarin [Coumadin] 4 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
6.  Albuterol Inhaler 2 PUFF IH Q6H wheezing  
7.  Atenolol 100 mg PO DAILY  
8.  Cyclobenzaprine 10 mg PO BID:PRN spasm  
9.  Leuprolide Acetate 11.25 mg IM Q3MONTHS  
10.  LORazepam 1 mg PO QHS anxiety  
11.  QUEtiapine Fumarate 400 mg PO QHS  
12.  Zolpidem Tartrate 5 mg PO QHS:PRN insomnia  
13.Outpatient Lab Work
CBC w/ Diff 3 days re: leukopenia and anemia D72.819 ,D64.9
BMP 3 days re: ___ N17.9
LFT's 3 days re: Elevated LFT's R94.5
INR daily until INR therapeutic range (___) re: warfarin 
anticoagulation  Z79.01
Weekly CPK re: Daptomycin use

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
___
Polymicrobial left septic knee
Anemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted with fever found to have kidney damage, which 
was likely from your vancomycin.  Infectious disease was 
involved and adjusted your antibiotics.  Your orthopedic 
surgeons were also involved and you had a joint aspiration of 
your left knee done on ___. You were discharged on IV 
Daptomycin and Ertapenem 

It was a pleasure taking care of you.  Please be sure that your 
antibiotics are given on regular intervals.  
 
Followup Instructions:
___